* C:\Users\byhz780\OneDrive - The University of Auckland\Documents\Temp_sensing\TempSensing.asc
* Generated by LTspice 26.0.1 for Windows.
Rfixed 5V V_TEMP 10k
V1 5V 0 5
Rntc V_TEMP 0 {R25*exp(B*(1/(Tsim+273.15)-1/298.15))}
B1 R_NTC 0 V={R25*exp(B*(1/(Tsim+273.15)-1/298.15))}
.param R25 = 10k B=4300
.step param Tsim list 25 70 75 85
.op
.backanno
.end
