* C:\Users\wzhao\Documents\ee311-team06\Temp_sensing\TempSensing.asc
* Generated by LTspice 24.1.9 for Windows.
Rfixed 5V V_TEMP 1.5k
V1 5V 0 5
Rntc V_TEMP 0 {R25*exp(B*(1/(Tsim+273.15)-1/298.15))}
B1 R_NTC 0 V={R25*exp(B*(1/(Tsim+273.15)-1/298.15))}
R1 V_TEMP_FILT V_TEMP 1k
C1 V_TEMP_FILT 0 100n
R_TOP 5V V_ref 10K
R_BOTTOM V_ref 0 10K
X§U2 V_ref V_TEMP_FILT 5V 0 OTP_FAULT TLC081
.param R25 = 10k B=4300
.step param Tsim 65 75 0.1
.op
* Showing Resistances at different temperature
* Temperature Resistance Voltage\n25          10k        4.35V\n65          1.81k      2.73V\n70          1.51k      2.51V\n85          0.893k     1.87V
* V_TEMP = 5 * (Rntc/10k+Rntc)\nRntc = {R25*exp(B*(1/(Tsim+273.15)-1/298.15))}
* cut off freq ~910Hz\ntime constant ~175us, 5 time constant ~0.88ms\nTermocoolnig time constant ~20s, 0.88ms << 20s, so valid cutoff
.inc TLC081.mod
.backanno
.end
